US05700445
4-Chloro-11-(4-methyl-1-piperazinyl)-5H-dibenzo[b,e][1,4]diazepine
To a stirred solution of anisole (0.40 mL, 3.68 mmol) in dry toluene (2.00 mL) was added titanium tetrachloride (0.24 mL, 2.18 mmol) at room temperature under argon. The mixture was then treated with 1-methylpiperazine (1.04 mL, 0.94 g, 9.40 mmol) and 4-chloro-11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine (0.49 g, 2.00 mmol) (Giani et al, supra) and diluted with toluene (1.00 mL). After more 1-methylpiperazine (0.60 mL, 0.54 g, 5.40 mmol) was added, toluene (8.00 mL) was added and the resulting reaction mixture was heated at reflux for 6 h before it was cooled to 60° C. Isopropanol (0.80 mL), celite (0.40 g) and ammonia (30%, 0.50 mL) were added sequentially and the whole mixture was filtered hot. Upon cooling to room temperature, the filtrate was concentrated in vacuo to dryness. The purification was carried out either by acidic (3M HCl) extraction and basification (30% ammonia) or column chromatography using ethyl acetate/methanol (3/1) as the eluent. The title compound was obtained as a light yellow solid in 0.60 g (91%); m.p. 168°-170° C.; MS (EI) 326 (M+).

reactant | anisole | 3.68 mmol, 0.40 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | 1-methylpiperazine | 9.40 mmol, 1.04 mL, 0.94 g | CN1CCNCC1 | C5H12N2
reactant | 4-chloro-11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine | 2.00 mmol, 0.49 g | ClC1=CC=CC2=C1NC1=C(NC2=O)C=CC=C1 | C13H9ClN2O
reactant | 1-methylpiperazine | 5.40 mmol, 0.60 mL, 0.54 g | CN1CCNCC1 | C5H12N2
reactant | ammonia | 0.50 mL | N | H3N
solvent | toluene | 2.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.00 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 2.18 mmol, 0.24 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 8.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | Isopropanol | 0.80 mL | C(C)(C)O | C3H8O
product | 4-Chloro-11-(4-methyl-1-piperazinyl)-5H-dibenzo[b,e][1,4]diazepine | ClC1=CC=CC2=C1NC1=C(N=C2N2CCN(CC2)C)C=CC=C1 | C18H19ClN4
